US08614209B2
5-Phenyl-thiophene-3-carboxylic acid
5-Bromo-thiophene-3-carboxylic acid (2.07 g, 10 mmol) was dissolved in dimethoxyethane (15 mL) and ethanol (15 mL). Phenyl boronic acid (14 mmol), [1,1′-bis(diphenylphosphino)ferrocine]dichloropalladium (II) (0.5 mmol) and caesium carbonate (14 mmol) were added and the reaction mixture refluxed under nitrogen overnight. The solvent was evaporated under vacuum, and the residue dissolved in ethyl acetate. The organic solution was washed with 1 N hydrochloric acid, dried over magnesium sulfate, filtered and the solvent evaporated. The residue was dissolved in hot ethyl acetate, filtered and the solvent evaporated to give the title compound as a pale brown solid. LCMS m/z 203.20 [M−H]−R.T.=3.23 min (Analytical Method 5).

reactant | 5-Bromo-thiophene-3-carboxylic acid | 10 mmol, 2.07 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | Phenyl boronic acid | 14 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | caesium carbonate | 14 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-Phenyl-thiophene-3-carboxylic acid | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)O | C11H8O2S
